US09376401B2
Preparation of 4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)aniline (Compound 9)
3-Bromo-1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazole (1.5 g, 4.2 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (1.12 g, 5.12 mmol), Pd(PPh3)4 (0.49 g, 0.424 mmol) and K2CO3 (1.17 g, 8.52 mmol) were combined in a round bottom flask in 5:1 DME/water (22 mL), and the solution was degassed with nitrogen for 15 min. The reaction was then heated for 18 h at 120° C. The reaction mixture was cooled and diluted with EtOAc and water. The layers were separated and the aqueous layer was extracted with EtOAc (2×50 ml). The combined organic extracts were dried over anhydrous MgSO4 and concentrated onto 8 g of Celite®. The Celite® was loaded onto a silica column and the target molecule was eluted using 0-100% EtOAc/hexanes to afford the title compound as a tan solid (1.13 g, 68%): 1H NMR (400 MHz, CDCl3) δ 8.52 (s, 1H), 7.99 (d, J=8.7 Hz, 2H), 7.78 (d, J=9.1 Hz, 2H), 7.36 (d, J=9.1 Hz, 2H), 6.76 (d, J=8.7 Hz, 2H), 3.90 (s, 2H); ESIMS m/z 371.2 ([M+H]+).

reactant | 3-Bromo-1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazole | 4.2 mmol, 1.5 g | BrC1=NN(C=N1)C1=CC=C(C=C1)OC(C(F)(F)F)(F)F | C10H5BrF5N3O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 5.12 mmol, 1.12 g | CC1(OB(OC1(C)C)C1=CC=C(N)C=C1)C | C12H18BNO2
reactant | K2CO3 | 8.52 mmol, 1.17 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(PPh3)4 | 0.424 mmol, 0.49 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME water | 22 mL | COCCOC.O
product | 4-(1-(4-(perfluoroethoxy)phenyl)-1H-1,2,4-triazol-3-yl)aniline | 1.13 g, 68% | FC(C(F)(F)F)(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(N)C=C1)F | C16H11F5N4O
